US04409017
A mixture of ethyl 4-hydroxyphenoxyacetate (1.0 g), 1,3-dichloroisoquinoline (1.0 g), anhydrous potassium carbonate (0.7 g) and dry dimethylformamide (10 ml) was heated, with stirring, at a temperature of 120°-130° C. for a period of 3 hours. The solvent was removed by distillation under reduced pressure and the residue was treated with water. The aqueous mixture was extracted with a mixture of acetone and chloroform and the solvents were removed from the organic extract by distillation under reduced pressure. The residue was chromatographed over silica gel with chloroform elution to give ethyl 4-(3-chloro-1-isoquinolyloxy)phenoxyacetate (1.2 g), mp 97° C. The assigned structure was confirmed by proton magnetic resonance spectroscopy, mass spectrometry and elemental analysis.

reactant | ethyl 4-hydroxyphenoxyacetate | 1.0 g | OC1=CC=C(OCC(=O)OCC)C=C1 | C10H12O4
reactant | 1,3-dichloroisoquinoline | 1.0 g | ClC1=NC(=CC2=CC=CC=C12)Cl | C9H5Cl2N
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 4-(3-chloro-1-isoquinolyloxy)phenoxyacetate | 1.2 g | ClC=1N=C(C2=CC=CC=C2C1)OC1=CC=C(OCC(=O)OCC)C=C1 | C19H16ClNO4
